data/mechanism_extracts/NatCommun/10.1038_s41467-018-03246-4.json
{"doi": "10.1038_s41467-018-03246-4", "journal": "NatCommun", "is_review": false, "rxn_class_summary": "Cobalt-catalyzed electrooxidative dehydrogenative C-H/N-H [4+2] annulation of aromatic/vinyl amides with ethylene or ethyne to give dihydroisoquinolinones/isoquinolinones", "mechanism_family": ["electrocatalysis_inner_sphere", "mediator_anodic"], "electrochemical_role": "Anodic oxidation of substrate-coordinated Co(II) complex to Co(III) (and later Co(I) to Co(II)) regenerates the active high-valent cobalt catalyst, replacing a chemical oxidant", "key_intermediates": [{"name": "Co(II)-amide complex (bidentate N,N-coordinated, 8-aminoquinoline directing group) - complex A", "smiles": null, "role": "resting_state"}, {"name": "Co(III)-amide complex B formed by anodic oxidation of A", "smiles": null, "role": "reactive"}, {"name": "Cyclic Co(III) metallacycle C after C-H activation (CMD with pivalate)", "smiles": null, "role": "reactive"}, {"name": "Co(III) alkyl intermediate D after ethylene insertion", "smiles": null, "role": "transient"}, {"name": "Co(I) species after reductive elimination, reoxidized at anode to Co(II)", "smiles": null, "role": "transient"}], "electron_flow": "Co(II) binds the bidentate amide with pivalate assistance; the anode oxidizes this Co(II) complex to Co(III), which performs intramolecular C-H activation (CMD with pivalate); ethylene/ethyne insertion followed by C-N reductive elimination releases product and Co(I), which is re-oxidized at the anode to Co(II); protons are reduced at the cathode to H2.", "rate_determining_step": "Electrochemical oxidation of the coordinated Co(II) complex to Co(III) (C-H cleavage is kinetically relevant but not rate-determining; only secondary KIE in parallel experiments)", "probe_reagents": [{"name": "[D5]-1a (pentadeuterio benzamide) intermolecular competition", "smiles": null, "purpose": "KIE", "observation": "3aa:[D4]-3aa = 3.5:1 in intermolecular competition, indicating C-H cleavage is kinetically relevant"}, {"name": "[D5]-1a parallel reactions", "smiles": null, "purpose": "KIE", "observation": "kH/kD = 1.4 (small, secondary); C-H cleavage is a slow step but not rate-determining"}, {"name": "Cyclic voltammetry of 1a, Co(acac)2, and mixture", "smiles": null, "purpose": "redox_probe", "observation": "1a oxidation at 1.47 V; Co(acac)2 at 1.12 and 1.53 V; Co(acac)2+1a shows stronger peak at 1.13 V indicating Co(II) is oxidized first; potential-controlled electrolysis at 1.13 V gave 3aa in 70% yield"}, {"name": "Kinetic order studies (variation of [1a], [NaOPiv], [Co], current)", "smiles": null, "purpose": "other", "observation": "Rate independent of [1a], [NaOPiv], and [Co]; rate depends on current, indicating electrochemical oxidation is rate-limiting"}, {"name": "GC headspace analysis", "smiles": "[HH]", "purpose": "other", "observation": "Large amount of H2 detected, confirming cathodic proton reduction"}], "evidence_types_used": ["KIE", "H/D_labeling", "cyclic_voltammetry", "kinetic_order", "redox_probe"], "evidence_strength": "strong", "notes": "Authors invoke prior EXAFS evidence (ref 31) that anodic oxidation of Co(acac)2 generates Co(III). Pivalate (HOPiv/NaOPiv) acts as CMD base for C-H activation. 8-Aminoquinoline (Q) bidentate directing group is essential. Induction period observed in most runs. Cathodic half-reaction is H2 evolution."}
